Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
"I was very confused"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ ___ woman with no prior 
psychiatric or medical history, brought in by family for command 
auditory hallucinations, depressive symptoms, and erratic 
behavior in the setting of the recent finalization of her 
divorce from her husband. 

ED Course: Medication adherent with 2.5 olanzapine QHS. No 
restraints or security intervention. Family at bedside, wanted 
patient to be discharged to ___. Interviewed with ___ 
interpreter.

___ ___ 05:43 PO Nitrofurantoin Monohyd (MacroBID) 100 
mg ___ 07:56 PO OLANZapine 2.5 mg ___ 09:11 PO 
OLANZapine 2.5 mg ___ 14:10 PO/NG LORazepam .5 mg 
___ 20:41 PO/NG LORazepam .5 mg ___ 20:43 PO 
Nitrofurantoin Monohyd (MacroBID) 100 mg ___ 20:43 PO 
OLANZapine 2.5 mg ___ 07:48 PO Nitrofurantoin Monohyd 
(MacroBID) 100 mg ___ 11:51 PO OLANZapine 2.5 mg 
___ 15:45 PO/NG LORazepam .5 mg ___ 21:30 PO 
Nitrofurantoin Monohyd (MacroBID) 100 mg ___ 21:30 PO 
OLANZapine 2.5 mg ___ ___ 08:15 PO 
Nitrofurantoin Monohyd (MacroBID) 100 mg 

Per ___ MD's ___ initial ED consult 
note: "Ms. ___ is a ___ year-old ___ woman 
from ___ with no PMH presenting with worsening depressive 
symptoms over the last 3 weeks, along with auditory 
hallucinations and increasingly erratic behavior. Patient was 
brought in to the hospital by her ex-husband, aunt and uncle 
from ___ for further evaluation. Patient reports worsening 
hopelessness, insomnia, poor concentration, irritability, and 
mood swings but denies any suicidal ideation, intent or plan 
with no reported violent thoughts. She denies any visual 
hallucinations but endorses new onset paranoia which was worse 
over the weekend until ___, during which she reported to her 
family that she was worried about people taking her picture, 
intercepting into her phone, or feeling like people were 
following her. 

Patient's ex-husband reported that patient called him multiple 
times in the middle of the night and came to his home suddenly, 
which was uncharacteristic of her (as they are currently 
separated from a recent divorce over the last month). She 
additionally appeared more affectionate and impulsive after 
dinner tonight, when she tried kissing his shoulder and telling 
him she loves him which was also uncharacteristic of her usual 
behavior. On ___, patient reportedly when to work and began 
staring oddly at her boss, telling him about her separation; 
pt's coworkers and boss called ex-husband concerned that patient 
appeared somewhat disorganized. She does however have periods 
during which she is calm, cooperative, and polite, interspersed 
through these episodes which have been decreasing in severity 
compared to ___. Patient feels that her family has been 
over-exaggerating some of her symptoms, but admits that she has 
been struggling with modulating her mood. She denies any periods 
of confusion or loss of memory. Denies any new onset neurologic 
sx. 

Ms. ___ reports that she has been struggling with 
coping with this separation w/ her ex husband and reports 
feeling increasingly lonely and isolated as she has no social 
support because her family lives in ___. Patient's Ex 
husband requested her Aunt and Uncle living in ___ to come 
to the ___ to visit patient and bring her back to ___ to be 
with family and to subsequently seek mental health care. 

During interview patient reported that her family was 
exaggerating some of her symptoms, but that she was in agreement 
that her mood has been labile along with poor sleep, frequent 
pacing, anxious racing thoughts, and increase in goal directed 
activity. She reports that her family brought her in to the 
hospital because she was having difficulty with writing an email 
to her boss about going on vacation to ___ to see her 
family; her family corrected patient repeatedly stating that the 
reason she was in the hospital was for treatment of her anxiety 
and erratic behaviors. Patient reported that she last heard 
multiple voices over the weekend (unable to tell whether they 
were male vs. female) telling her to "do things opposite to what 
I was doing". She gave the example of a voice telling her to "go 
home" while she was in the train despite being on her way to 
work. She denies any threatening CAH. 

Collateral: Patient's ex husband and uncle were present at 
bedside, reporting that patient has appeared to be more fixated 
and perseverative upon certain ideas including her marriage. 
They have been having difficulty at night due to patient writing 
letters in the middle of the night, pacing, appearing anxious, 
though she has not engage in any kind of threatening behaviors. 
Patient's Uncle stated that he feels strongly that patient will 
need to return with him home on ___ so she can spend time 
with family, as she has no one to help take care of her in the 
___ at this time. 

Per patient's ex husband, patient's roommate is a neurologist 
and urged that they bring patient to the hospital for further 
evaluation as patient has not appeared to be like her usual 
self.

ROS: As per HPI. Denies any headache, lightheadedness, 
dizziness, fatigue, reports some chills ___ days prior which 
have subsided, no reported dysuria, suprapubic pain, abdominal 
discomfort, nausea, vomiting, weakness, or muscle aches/pains. 
No reported tremors or LOC."

On interview today, patient states that her divorce has been 
ongoing to many months, but that she became increasingly 
depressed when the divorce papers were signed several weeks ago. 
She states that she feels very unsure about her future. She 
moved to the ___ to be with her husband and her immigration 
status is tied to her legal relationship with him. All of her 
family is back in ___, and she is now thinking she may 
return to ___ more permanently. 

The patient's uncle states that the pt and her family would like 
her to go back to ___ for more long term treatment because 
the patient now feels very isolated in the ___. The pt's uncle 
came to the ___ specifically to look after his niece and he is 
hoping to take her back to ___ with him on the flight they 
have booked for this coming ___. 

The patient and uncle both voice understanding that the pt was 
experiencing psychotic symptoms, which have improved with 
anti-psychotic medication. The patient attributes these symptoms 
to the stress and depression she was experiencing in the wake of 
her divorce. She denies any prior history of depression of 
psychotic symptoms. The patient's uncle relates several examples 
of the patient's paranoid behavior, including darting looks 
around the street while walking outside, and vocalizing fears 
while walking through a ___ neighborhood that the people 
there knew she was divorced and would judge her because "Jews do 
not approve of divorce." The patient's uncle also states the 
family initially became worried because of phone conversations 
with the patient where her train of thought was difficult to 
follow and she seemed very distressed, making statements like "I 
am blocked" and "I don't know what is happening." The patient 
recalls being inappropriately affectionate with her ex-husband 
just prior to hospitalization. The patient also recalls hearing 
a male voice two distinct times while travelling via public 
transportation telling her to change the direction of her 
travel. The patient found these voices odd and distressing. 

PSYCHIATRIC REVIEW OF SYSTEMS: - Depression: Endorses symptoms 
of depression including depressed mood, anhedonia, sleep 
disturbance including insomnia, loss of appetite, poor 
concentration - Anxiety: Endorses symptoms of anxiety such as 
worry, rumination, intrusive thoughts - Mania: Endorses symptoms 
of mania including distractability and impulsivity. Denies 
grandiosity, flight of ideas, increased activity, decreased need 
for sleep, or talkativeness/pressured speech. - Psychosis: 
Endorses symptoms of psychosis including auditory hallucinations 
and paranoia

GENERAL REVIEW OF SYSTEMS: Denies fever, chills, nightsweats, 
headache, focal numbness, focal weakness, changes in vision, 
changes in hearing, heat intolerance, cold intolerance, 
polyuria, polydipsia, cough, SOB, CP, palpitations, abdominal 
pain, nausea, vomiting, diarrhea, constipation, melena, dysuria, 
increased urinary frequency, rash, skin changes, joint pain, 
muscle pain, edema, bruising, bleeding.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Hospitalizations: denies
- Psychiatrist: denies
- Therapist: denies
- Medication trials: denies
- Suicide attempts: denies
- Self-injurious behavior: denies
- Harm to others: denies
- Trauma: denies
- Access to weapons: denies

PAST MEDICAL HISTORY:
None
 
MEDICATIONS:
None
 
ALLERGIES: 
NKDA 

 
Social History:
SUBSTANCE USE HISTORY:
- Alcohol: denies
- Tobacco: denies
- Other Drugs: Denies

FORENSIC HISTORY:
- Arrests: Denies
- Convictions and jail terms: Denies
- Current status (pending charges, probation, parole): N/A

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
- Psychiatric Diagnoses: denies
 
Physical Exam:
EXAM:
VS:
 
___ 1655 Temp: 98.7 PO BP: 101/68 HR: 97 RR: 16 O2 sat: 98%
O2 delivery: RA 

Physical Exam: 
GEN:
HEENT:  Normocephalic, atraumatic. Moist mucous membranes.
Anicteric sclera. 
CV:  Regular rate, normal S1, S2. No murmurs/rubs/gallops. 2+
radial pulses.
RESP: Non-labored. Clear to auscultation bilaterally. No
wheezes/rales/rhonchi.  
ABD: Soft, non-tender, non-distended. Positive bowel sounds
EXT: Warm and well perfused. No gross deformity. No peripheral
edema.
SKIN: No rashes or lesions noted.
 
Neurological Exam: 
- Cranial nerves: 
  II: PERRLA 4mm to 2mm, brisk bilaterally
  III, IV, VI: extraocular movements intact. no nystagmus.
  V: facial sensation to touch equal in all 3 divisions
bilaterally
  VII: face symmetric  on eye closure and smile
  VIII: hearing normal bilaterally to rubbing fingers
  IX, X: palate elevates symmetrically
  XI: head turning and shoulder shrug intact
  XII: tongue midline. 
- Reflexes: 2+ and symmetrical biceps, brachioradialis, patellar
- Motor:  ___ biceps, triceps, iliopsoas, quadriceps, 
hamstrings.
Normal bulk. 
- Sensation: intact and symmetric to light touch. 
- Gait and station:  Good initiation. Narrow-based gait, normal
stride and arm-swing. No ataxia noted. Normal coordination of
finger to nose and heel to shin testing. 
- Abnormal movements:  No tremor or abnormal movements
appreciated.
 
Cognition: 
- Wakefulness/alertness: Awake and alert
- Attention: ___ backwards with 0 errors
- Orientation: Oriented to person, time, place, situation
- Memory: ___ registration, ___ recall, long-term grossly intact
- Fund of knowledge: appropriate for education
- Calculations: 7 quarters = "$1.75"
- Abstraction: apple/orange = both sweet
  "never judge a book by its cover" = "you have to look deeper"
- Speech: fluent, spontaneous, clear. normal volume, rate, tone,
and prosody.
- Language: fluent ___, limited ___
 
Mental Status:
- Appearance: woman appearing stated age, wearing hospital gown,
slightly disheveled
- Behavior: Sitting upright, appropriate eye contact. No
psychomotor agitation or retardation
- Attitude: Cooperative, engaged, pleasant, forthcoming.
- Mood: "anxious"
- Affect: Mood-congruent, slightly restricted, appropriate to
situation
- Thought process: Linear, coherent, goal-oriented, no loose
associations
- Thought Content:
  Safety: Denies SI/HI
  Delusions: Some slight paranoia of staff possible. 
  Obsessions/Compulsions: No evidence based on current encounter
  Hallucinations: Denies current AVH, not appearing to be
attending to
internal stimuli
  Insight / Judgment: fair / fair
 
Pertinent Results:
___ 07:16AM BLOOD Cholest-147
___ 07:16AM BLOOD %HbA1c-5.6 eAG-114
___ 07:16AM BLOOD Triglyc-57 HDL-80 CHOL/HD-1.8 LDLcalc-56

___: WBC: 6.6
___: RBC: 4.18
___: HGB: 12.6
___: HCT: 40.4
___: MCV: 97
___: MCH: 30.1
___: MCHC: 31.2*
___: RDW: 13.2
___: Plt Count: 167
___: Neuts%: 59.3
___: Lymphs: 30.5
___: MONOS: 8.3
___: Eos: 1.1
___: BASOS: 0.5
___: AbsNeuts: 3.92

___: Na: 140
___: K: 4.2
___: Cl: 106
___: CO2: 23
___: BUN: 18
___: Creat: 0.6
___: Glucose: 91 (If fasting, 70-100 normal, >125
provisional diabetes)

___: TSH: 1.6

___: Urine pH (Hem): 6.0
___: Urine Glucose (Hem): NEG
___: Urine Protein (Hem): 30*
___: Urine Bilirubin (Hem): NEG
___: Urobilinogen: NEG
___: Urine Ketone (Hem): 10*
___: Urine Blood (Hem): MOD*
___: Urine Nitrite (Hem): NEG
___: Urine Leuks (Hem): SM*

UCG negative
Urine culture negative

___: Benzodiazepine: NEG (Benzodiazepine immunoassay screen
does not detect some drugs,; including Lorazepam, Clonazepam, 
and
Flunitrazepam)
___: Barbiturate: NEG
___: Opiate: NEG (Opiate assay does not reliably detect
synthetic opioids; such as Methadone, Oxycodone, Fentanyl,
Buprenorphine, Tramadol,; Naloxone, Meperidine. See online Lab
Manual for details)
___: Cocaine: NEG
___: Amphetamine: NEG
___: Methadone: NEG (Methadone assay detects Methadone (not
other Opiates/Opioids); Quetiapine (Seroquel) may cause a false
positive result)

 
                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT
      WITH SKIN AND/OR GENITAL CONTAMINATION. 

 
Brief Hospital Course:
DISCHARGE SUMMARY

1. LEGAL & SAFETY:  
The patient was initially admitted on a Section 12b, wished to 
discuss legal status with family, and subsequently signed a 
conditional voluntary agreement (Section 10 & 11) on ___, 
and remained on that level throughout their admission. They were 
also placed on 15 minute checks status and monitored sharps on 
admission and remained on that level of observation throughout. 
She was granted group walk privileges given behavioral control 
and clinical improvement.

2. PSYCHIATRIC:
 #)  Major depressive disorder with psychotic features 
 1) Patient initially presented with disorganized thought 
process, thought blocking, ambivalence, vague and circumstantial 
speech, and appeared confused with dysphoric affect, mildly 
disheveled. She had difficulty reaching decisions and often 
appeared confused, although she was able to follow commands and 
generally answered questions appropriately. She endorsed 
depressed mood, anxiety, auditory hallucinations, poor appetite 
with significant weight loss (~16 kg) and suicidal ideation in 
the setting of recent relationship stressor. 
 2) Diagnostically, presentation felt consistent with major mood 
disorder with psychotic features. No strong clinical suspicion 
for bipolar diathesis, but given patient's age, this is 
certainly a possibility.  
 3) Intervention included medication titration, with sertraline 
titrated to 50mg po qday, and olanzapine titrated to 5mg po qhs. 
She was offered olanzapine 2.5mg po BID PRN, which she took 
infrequently.  
 4) Outcomes included improved mood, brightened and more stable 
affect, improvement of thought blocking and disorganized thought 
process. She became more engaged with the milieu, attending 
groups, and becoming more organized in behavior (began carrying 
a notebook, writing down clinical information and questions), 
and asking appropriate and coherent questions about her 
treatment plan. She was able to participate in aftercare and 
safety planning. Eating and sleeping well. 
 5) Future recommendations include tapering off olanzapine after 
sustained period without psychosis, on the order of weeks to 
months. We recommend continuing SSRI for at least ___ months 
given severity of mood episode. Further titration of Zoloft 
could be considered. Patient will benefit from continued therapy 
to process her marital dissolution. 

3. SUBSTANCE USE DISORDERS:
No active substance use needs. 

4. MEDICAL
No acute medical needs. Patient completed a Macrobid ___ po 
BID course for 5 days, started in the ED for suspected UTI, but 
denied symptoms and urinalysis thought likely contaminate given 
multiple squames. 

5. PSYCHOSOCIAL
 #) GROUPS/MILIEU:  
 The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  As her 
hospital stay continued, the patient often attended these groups 
that focused on teaching patients various coping skills. She was 
initially isolative and kept mainly to her bed, but as time 
progressed, she was more frequently visible in the milieu 
(reading, journaling, meals), and attended groups, rarely 
socializing outside of family and family friend. She benefited 
from spiritual care consult. Patient did not feel a translator 
was necessary during her stay; interviews conducted in both 
___ and ___. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT

 #) INTERVENTIONS
 - Medications: olanzapine 5mg po qhs, sertraline 50mg po qday, 
olanzapine 2.5mg po BID PRN 
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy.
 - Coordination of aftercare: Patient and family opt to identify 
independent providers in ___. Provided with list of local 
providers upon her return from ___. 
 - Behavioral Interventions: reality-testing, safety-planning, 
supportive care
 -Guardianships: none

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting sertraline (activation, GI distress, headache), and 
olanzapine (metabolic syndrome, EPS/movement disorder, sedation) 
and risks and benefits of possible alternatives, including not 
taking the medication, with this patient. We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT & PROGNOSIS
 On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon suicidal ideation 
and command auditory hallucinations.  Their static factors noted 
at that time included marital status.   The modifiable risk 
factors included  acute stressor of divorce, impulsivity, 
disorganized behavior, difficulty reality-testing, no current 
psychiatric regimen or providers. This was largely addressed 
through medication management and family involvement to identify 
___ based mental health providers.  Finally, the patient 
is being discharged with many protective risk factors, including 
strong family support, no prior suicide attempts, no substance 
use, no access to lethal weapons, no self-injurious behavior, 
female gender.  Based on the totality of our assessment at this 
time, the patient is not at an acutely elevated risk of 
self-harm nor danger to others. 

Please feel free to contact Deac4 unit at ___ to 
connect to psychiatric team, or email attending psychiatrist 
___, MD at ___ to further 
discuss her clinical care. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  OLANZapine 5 mg PO QPM 
RX *olanzapine 5 mg 1 tablet(s) by mouth Evening Disp #*30 
Tablet Refills:*0 
2.  Sertraline 50 mg PO DAILY 
RX *sertraline 50 mg 1 tablet(s) by mouth In the morning Disp 
#*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
major depressive disorder with psychotic features

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
.
Mental Status:
-Appearance: Stated age, thin 
-Behavior/Attitude: Engaged, cooperative, polite, grateful
-Mood: 'Better'
-Affect: Stable, reactive, euthymic, brighter
-Speech: Soft volume, normal rate
-Thought process: Linear, no loosening of associations
-Thought Content: No suicidal ideation, no homicidality.  No
delusions, no residual paranoia.  No perceptual abnormalities
-Insight: Intact
-Judgment: Intact
.
Cognition: 
-Wakefulness/alertness: Alert, oriented
-Attention: intact
-Orientation: x4
-Memory: much improved
-Language: Fluent in ___

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
-Once you have identified your ___ or local providers, 
please call the ___ unit at ___ or email Dr. 
___ (___) to facilitate your 
transition of care.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___